US08133910B2
To a solution of 3-{4-[5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propane-1,2-diol (627 mg, 1.56 mmol) and DIPEA (311 mg, 2.41 mmol) in DCM (10 mL), methanesulfonyl chloride (207 mg, 1.81 mmol) is added. The mixture is stirred at rt before another portion of DIPEA (40 mg, 0.31 mmol) and methanesulfonyl chloride (36 mg, 0.31 mmol) is added. Stirring is continued for 1 h before the reaction is quenched by adding water. The mixture is extracted with DCM. The org. extract is washed with water, dried over MgSO4, filtered and evaporated. The crude product is purified by CC on silica gel eluting with heptane:EA 7:3 to give methanesulfonic acid 2-hydroxy-3-{4-[5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propyl ester (220 mg) as a colourless oil; LC-MS: tR=1.08 min, [M+1]+=481.09.

reactant | 3-{4-[5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propane-1,2-diol | 1.56 mmol, 627 mg | C(C(C)C)C1=CC=C(S1)C1=NN=C(O1)C1=CC(=C(OCC(CO)O)C(=C1)C)C | C21H26N2O4S
reactant | DIPEA | 2.41 mmol, 311 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 1.81 mmol, 207 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | DIPEA | 0.31 mmol, 40 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.31 mmol, 36 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-hydroxy-3-{4-[5-(5-isobutyl-thiophen-2-yl)-[1,3,4]oxadiazol-2-yl]-2,6-dimethyl-phenoxy}-propyl ester | 220 mg | OC(COS(=O)(=O)C)COC1=C(C=C(C=C1C)C=1OC(=NN1)C=1SC(=CC1)CC(C)C)C | C22H28N2O6S2
